US07732460B2
(h) [(4R/S)-(3-Chloro-4-hydroxy-7-oxo-4,5-dihydro-7H-pyrrolo[3,2,1-de]-1,5-naphthyridin-4-yl)]methyl 4-methylbenzenesulfonate
A suspension of (4R/S)-3-chloro-4-hydroxy-4-(hydroxymethyl)-4,5-dihydro-7H-pyrrolo[3,2,1-de]-1,5-naphthyridin-7-one (300 mg, 1.2 mmol) in dichloromethane/tetrahydrofuran/N,N-dimethylformamide (10 ml/10 ml/2 ml) was treated with triethylamine (0.25 ml, 1.8 mmol), para-toluenesulphonyl chloride (220 mg, 1.2 mol) and dibutyltin oxide (15 mg, 0.06 mmol). After 3 hours water was added and the phases separated. The organic phase was washed with saturated aqueous sodium bicarbonate solution then dried and evaporated affording the product (465 mg).

reactant | (4R/S)-3-chloro-4-hydroxy-4-(hydroxymethyl)-4,5-dihydro-7H-pyrrolo[3,2,1-de]-1,5-naphthyridin-7-one | 1.2 mmol, 300 mg | ClC=1C=NC=2C=CC(N3C2C1C(C3)(CO)O)=O | C11H9ClN2O3
reactant | triethylamine | 1.8 mmol, 0.25 ml | C(C)N(CC)CC | C6H15N
reactant | para-toluenesulphonyl chloride | 1.2 mol, 220 mg | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | water | O | H2O
solvent | dichloromethane tetrahydrofuran N,N-dimethylformamide | 10 ml | ClCCl.O1CCCC1.CN(C=O)C
catalyst | dibutyltin oxide | 0.06 mmol, 15 mg | C(CCC)[Sn](CCCC)=O
product | [(4R/S)-(3-Chloro-4-hydroxy-7-oxo-4,5-dihydro-7H-pyrrolo[3,2,1-de]-1,5-naphthyridin-4-yl)]methyl 4-methylbenzenesulfonate | 465 mg | CC1=CC=C(C=C1)S(=O)(=O)OCC1(CN2C=3C1=C(C=NC3C=CC2=O)Cl)O | C18H15ClN2O5S
